US07956069B2
(3aR,7aR)-1-[1′-(propylcarbonyl)-1,4′-bipiperidin-4-yl]octahydro-2H-benzimidazol-2-one
To the solution of (3aR,7aR)-1-(1,4′-bipiperidin-4-yl)octahydro-2H-benzimidazol-2-one, 0.25 mmol) in dry DMF (3 mL) was added butyric acid (26 mg, 0.3 mmol) followed by HATU (114 mg, 0.3 mmol) and diisopropylethylamine (0.10 mL, 0.5 mmol) and the mixture was stirred at room temperature for 1 h. The reaction was quenched with water (5 mL) and the solvent was removed in vacuo. Dichloromethane (15 mL) was added and washed with saturated NaHCO3 (10 mL) and brine (10 mL), and dried over Na2SO4. The crude product was purified with high pH prep-LCMS to to provide the title compound (53 mg, 56%) as white powder. 1H NMR (400 MHz, METHANOL-D4): δ ppm 0.94 (t, J=7.42 Hz, 3H), 1.25-1.48 (m, 6H), 1.51-1.65 (m, 3H), 1.68 (d, J=11.72 Hz, 1H), 1.74-2.01 (m, 7H), 2.19-2.32 (m, 3H), 2.35 (t, J=7.62 Hz, 2H), 2.55 (t, J=12.11 Hz, 2H), 2.89-3.11 (m, 5H), 3.56-3.69 (m, 1H), 4.01 (d, J=13.28 Hz, 1H), 4.57 (d, J=13.28 Hz, 1H). MS (M+1): 377.2

reactant | (3aR,7aR)-1-(1,4′-bipiperidin-4-yl)octahydro-2H-benzimidazol-2-one | N1(CCC(CC1)N1C(N[C@H]2[C@H]1CCCC2)=O)C2CCNCC2 | C17H30N4O
reactant | butyric acid | 0.3 mmol, 26 mg | C(CCC)(=O)O | C4H8O2
reactant | HATU | 0.3 mmol, 114 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 0.5 mmol, 0.10 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (3aR,7aR)-1-[1′-(propylcarbonyl)-1,4′-bipiperidin-4-yl]octahydro-2H-benzimidazol-2-one | 53 mg, 56% | C(CC)C(=O)N1CCC(CC1)N1CCC(CC1)N1C(N[C@H]2[C@H]1CCCC2)=O | C21H36N4O2
